US08604074B2
1,3-Bis(3,6-dibromo-9H-carbazol-9-yl)propan-2-ol
3,6-Dibromocarbazole (0.050 g, 0.154 mmol) was dissolved in DMF (1.5 mL) and cooled to 0° C. NaH (60% dispersion in mineral oil, 0.007 g, 0.169 mmol) was added and the reaction was stirred for 45 min at 0° C. 3,6-Dibromo-9-(oxiran-2-ylmethyl)-9H-carbazole (0.059 g, 0.154 mmol) was added and the reaction was stirred at ambient temperature for 24 h. Upon consumption of the starting material by TLC, the reaction was partitioned between EtOAc and H2O. The aqueous layer was washed 3× with EtOAc, and the combined organics were washed with saturated aqueous NaCl, dried over Na2SO4, filtered, and concentrated in vacuo. The crude residue was purified by chromatography (SiO2, 0-50% EtOAc/Hexane) to afford the desired product (37 mg, 34%).

reactant | 3,6-Dibromocarbazole | 0.154 mmol, 0.050 g | BrC=1C=CC=2NC3=CC=C(C=C3C2C1)Br | C12H7Br2N
reactant | NaH | 0.169 mmol, 0.007 g | [H-].[Na+]
reactant | 3,6-Dibromo-9-(oxiran-2-ylmethyl)-9H-carbazole | 0.154 mmol, 0.059 g | BrC=1C=CC=2N(C3=CC=C(C=C3C2C1)Br)CC1OC1 | C15H11Br2NO
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 1,3-Bis(3,6-dibromo-9H-carbazol-9-yl)propan-2-ol | 37 mg, 34% | BrC=1C=CC=2N(C3=CC=C(C=C3C2C1)Br)CC(CN1C2=CC=C(C=C2C=2C=C(C=CC12)Br)Br)O | C27H18Br4N2O
